US04211783
A mixture of 35 g. of 3-(4-acetamidobenzoyl)propionic acid, 700 ml. of methanol and 1.4 ml. of concentrated sulfuric acid is refluxed for 76 hours. The solution is cooled to 35° C. and poured onto 7 g. of anhydrous sodium acetate while stirring. The reaction mixture is stirred in an ice-bath. The solid is collected and washed with cold methanol to yield methyl 3-(4-aminobenzoyl)priopionate as a white solid. A mixture of this solid, 9.2 g. of 13-(4-chlorophenyl)tridec-12-ynyl bromide and 4.2 g. of potassium carbonate is stirred for 20 hours at 125° C. under nitrogen. The mixture is then cooled to 25° C. and 30 ml. of water is added. After stirring, the product is filtered and washed with water. Recrystallization from methanol affords methyl 3-{4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoyl}propionate as a white solid.

reactant | 3-(4-acetamidobenzoyl)propionic acid | C(C)(=O)NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C12H13NO4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 13-(4-chlorophenyl)tridec-12-ynyl bromide | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCBr | C19H26BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | methyl 3-{4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoyl}propionate | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)CCC(=O)OC)C=C1 | C30H38ClNO3
